US08202863B2
A mixture of 4-methyl-2-[(2-phenyl-pyrimidin-5-carbonyl)-amino]-thiazole-5-carboxylic acid ethyl ester (0.15 mmol) and 10% aqueous NaOH solution (4 mL) in THF (10 mL) is stirred at 60° C. for 18 hours. THF is evaporated and the residue is acidified with 5% hydrochloric acid to pH ˜2.0-2.5. The precipitate is filtered and dried to afford 4-methyl-2-[(2-phenyl-pyrimidin-5-carbonyl)-amino]-thiazole-5-carboxylic acid as a solid. MS: 341 (M+H).

reactant | 4-methyl-2-[(2-phenyl-pyrimidin-5-carbonyl)-amino]-thiazole-5-carboxylic acid ethyl ester | 0.15 mmol | C(C)OC(=O)C1=C(N=C(S1)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1)C | C18H16N4O3S
reactant | NaOH | 4 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-methyl-2-[(2-phenyl-pyrimidin-5-carbonyl)-amino]-thiazole-5-carboxylic acid | CC=1N=C(SC1C(=O)O)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1 | C16H12N4O3S
